US09446041B2
1-(1-methylethyl)-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]-6-[6-(4-methyl-1-piperazinyl)-3-pyridinyl]-1H-indazole-4-carboxamide
The title compound was prepared in a similar manner as described for the above example from 6-bromo-1-(1-methylethyl)-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]-1H-indazole-4-carboxamide (90 mg, 0.202 mmol) and 1-methyl[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]piperazine (92 mg, 0.303 mmol). The final product was collected as a light brown solid (54 mg, 49%). 1H NMR (400 MHz, DMSO-d6)™ ppm 1H NMR (400 MHz, DMSO-d6)™ ppm 11.54 (br. s., 1H) 8.65 (d, J=2.27 Hz, 1H) 8.61 (t, J=4.80 Hz, 1H) 8.36 (s, 1H) 8.04-8.08 (m, 2H) 7.83 (s, 1H) 6.96 (d, J=9.09 Hz, 1H) 5.92 (s, 1H) 5.14 (quin, J=6.57 Hz, 1H) 4.42 (d, J=4.80 Hz, 2H) 3.53-3.59 (m, 4H) 2.53-2.61 (m, 2H) 2.40-2.45 (m, 4H) 2.23 (s, 3H) 2.14 (s, 3H) 1.51-1.58 (m, 2H) 1.50 (s, 3H) 1.49 (s, 3H) 0.88 (t, J=7-7.33 Hz, 3H). LC-MS (ES) m/z=542.2 [M+H]+

reactant | 6-bromo-1-(1-methylethyl)-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]-1H-indazole-4-carboxamide | 0.202 mmol, 90 mg | BrC=1C=C(C=2C=NN(C2C1)C(C)C)C(=O)NCC=1C(NC(=CC1CCC)C)=O | C21H25BrN4O2
reactant | 1-methyl[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]piperazine | 0.303 mmol, 92 mg | CN1C(CNCC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 1-(1-methylethyl)-N-[(6-methyl-2-oxo-4-propyl-1,2-dihydro-3-pyridinyl)methyl]-6-[6-(4-methyl-1-piperazinyl)-3-pyridinyl]-1H-indazole-4-carboxamide | CC(C)N1N=CC=2C(=CC(=CC12)C=1C=NC(=CC1)N1CCN(CC1)C)C(=O)NCC=1C(NC(=CC1CCC)C)=O | C31H39N7O2
